US05670505
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.17 g), 1-bromo-3-phenylpropane (0.08 g) and potassium carbonate (0.15 g) in dry dimethylformamide (10 ml) was stirred at room temperature under nitrogen atmosphere. After 2 hours, additional 1-bromo-3-phenylpropane (0.14 ml) and potassium carbonate (0.15 g) were added, and the mixture was stirred overnight. Water (50 ml) and dichloromethane (50 ml) were added to the mixture. The dichloromethane layer was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified on a silica gel column (10 g) eluting with a mixture of toluene and ethyl acetate (4:1) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(3-phenylpropyl)piperazine (0.17 g) as a syrup.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.17 g | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | 1-bromo-3-phenylpropane | 0.08 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-phenylpropane | 0.14 ml | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 50 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(3-phenylpropyl)piperazine | 0.17 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCCC2=CC=CC=C2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C31H29F6N3O
